US04956376
A mixture of methyl [3-[2-[5-(diphenylmethyl)-2H-tetrazol-2-yl]ethyl]phenoxy]acetate (0.84 g, 2 mmol), 3N, NaOH solution (2.00 mL, 6 mmol) and methanol (35 mL) was heated for 10 minutes on a steam bath. The methanol was evaporated, the residue diluted with water and acidified to pH=1 with 1N HCl solution. The mixture was extracted three times with CH2Cl2, the combined extracts washed with saturated sodium chloride solution and dried over sodium sulfate. Evaporation of the solvent left an oil which was chromatographed on a column of silica gel using a mixture of chloroform and methanol (93:7) as eluent to give [3-[2-[5-(diphenylmethyl)-2H-tetrazol-2-yl]-ethyl]phenoxy]acetic acid (0.50 g, 61%) as a colorless oil.

reactant | methyl [3-[2-[5-(diphenylmethyl)-2H-tetrazol-2-yl]ethyl]phenoxy]acetate | 2 mmol, 0.84 g | C1(=CC=CC=C1)C(C=1N=NN(N1)CCC=1C=C(OCC(=O)OC)C=CC1)C1=CC=CC=C1 | C25H24N4O3
reactant | NaOH | 6 mmol, 2.00 mL | [OH-].[Na+]
solvent | methanol | 35 mL | CO | CH4O
product | [3-[2-[5-(diphenylmethyl)-2H-tetrazol-2-yl]-ethyl]phenoxy]acetic acid | 0.50 g, 61% | C1(=CC=CC=C1)C(C=1N=NN(N1)CCC=1C=C(OCC(=O)O)C=CC1)C1=CC=CC=C1 | C24H22N4O3
